US05859256
A solution of 1,3-bis[(2-ethoxycarbonylethyl)thio]acetone (6.22 g, 19.3 mmol), ethyl carbazate (2.40 g, 23.1 mmol) and a catalytic amount of p-toluenesulfonic acid in anhydrous acetonitrile (50 mL) containing molecular sieve was stirred for 2 days at room temperature. The reaction was quenched with water/ethyl acetate and filtered. The filtrate was extracted with ethyl acetate. The organic extract was washed with aqueous sodium bicarbonate, dried over sodium sulfate, and concentrated. The residue was triturated with hexane, affording 7.2 g of 1,3-bis[(2-ethoxycarbonylethyl)thio]acetone ethoxycarbonylhydrazone. 1H NMR (CDCl3) δ 2.2-2.4 (m, 9H), 2.6-2.8 (m, 8H), 3.42 (s, 2H), 3.54 (s, 2H), 4.1-4.3 (m, 6H), 8.82 (br s, 1H).

reactant | 1,3-bis[(2-ethoxycarbonylethyl)thio]acetone | 19.3 mmol, 6.22 g | C(C)OC(=O)CCSCC(=O)CSCCC(=O)OCC | C13H22O5S2
reactant | ethyl carbazate | 23.1 mmol, 2.40 g | C(NN)(=O)OCC | C3H8N2O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1,3-bis[(2-ethoxycarbonylethyl)thio]acetone ethoxycarbonylhydrazone | 7.2 g | C(C)OC(=O)NN=C(CSCCC(=O)OCC)CSCCC(=O)OCC | C16H28N2O6S2
